US07592373B2
2.3.f. 3-(1-pyrrolidin-1-ylindan-5-yl)propynoic acid-(4′-chlorobiphenyl-4-yl)amide
A solution of 0.1 g (0.39 mmol) of (1-pyrrolidin-1-ylindan-5-yl)propynoic acid and 47 mL (0.43 mmol) of N-methylmorpholine in 5 mL of absolute THF is combined with 56 mL (0.43 mmol) of isobutyl chloroformate at −15° C. and stirred for ten minutes. Then 87 mg (0.43 mmol) of 4′-chlorobiphenyl-4-ylamine are added at ambient temperature and the reaction mixture is stirred for 14 hours. Then 3 mL of dichloromethane are added to the reaction mixture and this is stirred for 48 hours. Then the reaction mixture is filtered, the filtrate is evaporated down, combined with water and extracted with dichloromethane. The organic phase is evaporated down. The purification is carried out by preparative HPLC (eluant: dichloromethane/methanol/ammonia=8:2:0.2). Yield: 9 mg (5.7% of theory); C28H25ClN2O (M=440.97); calc.: molecular ion peak (M+H)+: 441/443; found: molecular ion peak (M+H)+: 441/443.

reactant | (1-pyrrolidin-1-ylindan-5-yl)propynoic acid | 0.39 mmol, 0.1 g | N1(CCCC1)C1CCC2=CC(=CC=C12)C#CC(=O)O | C16H17NO2
reactant | N-methylmorpholine | 0.43 mmol, 47 mL | CN1CCOCC1 | C5H11NO
reactant | isobutyl chloroformate | 0.43 mmol, 56 mL | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 4′-chlorobiphenyl-4-ylamine | 0.43 mmol, 87 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | dichloromethane | 3 mL | ClCCl | CH2Cl2
product | 3-(1-pyrrolidin-1-ylindan-5-yl)propynoic acid-(4′-chlorobiphenyl-4-yl)amide | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NC(C#CC=1C=C2CCC(C2=CC1)N1CCCC1)=O | C28H25ClN2O
